US08071581B2
Step 1: trans 2-quinolin-6-yl-cyclopropanecarboxylic acid ethyl ester
To a suspension of sodium hydride (71 mg, 1.76 mmol) in DMSO (3 mL) under nitrogen atmosphere was added trimethylsulfoxonium chloride (261 mg, 2.03 mmol). After stirring at room temperature for 30 minutes, a solution of 3-quinolin-6-yl-acrylic acid ethyl ester (200 mg, 0.881 mmol) in DMSO (2 mL) was added dropwise. The reaction mixture was stirred at room temperature for 2.5 h and quenched with a saturated aqueous solution of ammonium chloride. The mixture was extracted with ethyl acetate (2×) and the combined organic layers were washed with brine (3×) and adsorbed on silica gel. Purification on silica gel with 0-80% gradient of ethyl acetate in hexane provided 126 mg of product as a white solid. NMR 500 MHz (DMSO) δ 1.22 (t, 3H), 1.55 (m, 2H), 2.10 (m, 1H), 2.64 (m, 1H), 4.13 (q, 2H), 7.50 (dd, 1H), 7.58 (dd, 1H), 7.80 (d, 1H), 7.93 (d, 1H), 8.26 (dd, 1H), 8.84 (dd, 1H); MS (m/z) 242 [M+H+]+.

reactant | sodium hydride | 1.76 mmol, 71 mg | [H-].[Na+]
reactant | trimethylsulfoxonium chloride | 2.03 mmol, 261 mg | [Cl-].C[S+](=O)(C)C
reactant | 3-quinolin-6-yl-acrylic acid ethyl ester | 0.881 mmol, 200 mg | C(C)OC(C=CC=1C=C2C=CC=NC2=CC1)=O | C14H13NO2
solvent | DMSO | 3 mL | CS(=O)C | C2H6OS
solvent | DMSO | 2 mL | CS(=O)C | C2H6OS
product | trans 2-quinolin-6-yl-cyclopropanecarboxylic acid ethyl ester | 126 mg | C(C)OC(=O)[C@H]1[C@@H](C1)C=1C=C2C=CC=NC2=CC1 | C15H15NO2
